US04695575
To a stirred and cooled mixture of 6.2 parts of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-2-pyridinamine, 2 parts of N,N-diethylethanamine and 90 parts of tetrahydrofuran was added dropwise slowly a solution of 1.9 parts of benzoyl chloride in 45 parts of tetrahydrofuran. Upon completion, stirring was continued for 2 hours. The reaction mixture was evaporated. Water was added to the residue. The solution was treated with ammonium hydroxide. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was crystallized from 2,2'-oxybispropane. The product was filtered off and dried, yielding 5.3 parts (69%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-N-(2-pyrimidinyl)benzamide; mp. 108.1° C. (508).

reactant | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-2-pyridinamine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCNC2=NC=CC=C2 | C27H30FN5
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-N-(2-pyrimidinyl)benzamide | 69% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCN(C(C2=CC=CC=C2)=O)C2=NC=CC=N2 | C33H33FN6O
